US06586633B1
Production of N-(4-tert-Butylbenzyl)-N-methyl-(3,5-dibromobenzyl)amine (Compound 139)
N-(3,5-dibromobenzyl)methylamine (4.38 g; 15.7 mmol) and sodium carbonate (2.37 g; 22.4 mmol) were added to N,N-dimethylformamide (40 ml). While the mixture was stirred at room temperature, p-tert-butylbenzyl bromide (3.40 g; 14.9 mmol) in N,N-dimethylformamide (20 ml) was added dropwise. After completion of the addition, the mixture was stirred for 100 minutes at 50° C., and left to cool to room temperature. The mixture was poured into ice+saturated aqueous sodium bicarbonate solution, followed by extraction with diethyl ether (100 ml). The organic layer was washed with saturated aqueous sodium bicarbonate solution, and extracted with 2N hydrochloric acid twice (100 ml each). Crystals that precipitated were collected, and combined with the aqueous layer. The mixture was alkalinized with aqueous sodium hydroxide solution, and extracted with chloroform (100 ml). The organic layer was washed with water and then with saturated brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=40:1), to thereby yield 4.21 g of the target compound as pale white oily matter (yield: 66.4%).

reactant | N-(3,5-dibromobenzyl)methylamine | 15.7 mmol, 4.38 g | BrC=1C=C(CCN)C=C(C1)Br | C8H9Br2N
reactant | sodium carbonate | 22.4 mmol, 2.37 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | p-tert-butylbenzyl bromide | 14.9 mmol, 3.40 g | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-(4-tert-Butylbenzyl)-N-methyl-(3,5-dibromobenzyl)amine | yield: 66.4% | C(C)(C)(C)C1=CC=C(CN(C)CC2=CC(=CC(=C2)Br)Br)C=C1 | C19H23Br2N
